US04384980
3,5-octadiyn-1,8-diol;
2,4-hexadiyn-1,6-diol bis(n-butylurethane) plus 2,4-hexdiyn-1,6-diol bis(ethylurethane)

reactant | 2,4-hexadiyn-1,6-diol bis(n-butylurethane) | C(CCC)NC(=O)OCC.C(CCC)NC(=O)OCC.C(C#CC#CCO)O
reactant | 2,4-hexdiyn-1,6-diol bis(ethylurethane) | C(C)NC(=O)OCC.C(C)NC(=O)OCC.C(C#CC#CCO)O
product | 3,5-octadiyn-1,8-diol | C(CC#CC#CCCO)O | C8H10O2
